US04612329
Alpha-isopropyl-alpha-[3-[N-[3-(2-nitrophenoxy)propyl]-N-methylamino]propyl]-3,4,5-trimethoxyphenylacetonitrile
A mixture of 2.58 g of alpha-isopropyl-alpha-[3-[N-[3-(2-nitrophenoxy)propyl]amino]propyl]-3,4,5-trimethoxyphenylacetonitrile, 4.35 ml of 37% of formalin, and 4.35 ml of 90% formic acid was stirred for 1 hour at 90° C. After cooling, to the mixture were added water and potassium carbonate to make it alkaline. The solution was extracted with chloroform and the extract was washed with water, dried, and evaporated. The residue was chromatographed on silica gel using 1% methanol-chloroform as an eluent to give 1.43 g of the desired compound as a yellow oil.

reactant | alpha-isopropyl-alpha-[3-[N-[3-(2-nitrophenoxy)propyl]amino]propyl]-3,4,5-trimethoxyphenylacetonitrile | 2.58 g | C(C)(C)C(C#N)(CCCNCCCOC1=C(C=CC=C1)[N+](=O)[O-])C1=CC(=C(C(=C1)OC)OC)OC | C26H35N3O6
reactant | formalin | 4.35 ml | C=O | CH2O
reactant | formic acid | 4.35 ml | C(=O)O | CH2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | Alpha-isopropyl-alpha-[3-[N-[3-(2-nitrophenoxy)propyl]-N-methylamino]propyl]-3,4,5-trimethoxyphenylacetonitrile | 1.43 g | C(C)(C)C(C#N)(CCCN(C)CCCOC1=C(C=CC=C1)[N+](=O)[O-])C1=CC(=C(C(=C1)OC)OC)OC | C27H37N3O6
